US07582626B2
h) (7-Methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl)-acetic acid
A solution of (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl)-acetic acid ethyl ester (0.245 g, 0.680 mmol) in methanol (15 mL) was cooled to 0° C. in an ice-water bath and treated with 2.0 M aqueous lithium hydroxide solution (1.7 mL, 3.40 mmol). The reaction mixture was allowed to warm to 25° C. and stirred for 1 h. The reaction was poured into 0.5 M aqueous hydrochloric acid solution (50 mL) on ice, extracted with ethyl acetate (3×50 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to give an orange solid. The crude solid was triturated with diethyl ether to afford the desired product, (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl)-acetic acid (0.175 g, 0.526 mmol, 77%) as a light orange solid. LC-MS (ESI) calcd for C11H12N2O6S2 332.4, found 333.3 [M+H+].

reactant | (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl)-acetic acid ethyl ester | 0.680 mmol, 0.245 g | C(C)OC(CC1=CS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O | C13H16N2O6S2
reactant | lithium hydroxide | 3.40 mmol, 2.0 M, 1.7 mL | [OH-].[Li+]
reactant | hydrochloric acid | 0.5 M, 50 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,4]thiazin-3-yl)-acetic acid | 0.526 mmol, 0.175 g, 77% | CS(=O)(=O)NC1=CC2=C(NC(=CS2(=O)=O)CC(=O)O)C=C1 | C11H12N2O6S2
